US07700594B2
Methyl trans-4-(4-amino-5-iodoimidazo[5,1-f][1,2,4]triazin-7-yl)cyclohexanecarboxylate
A solution of 1H-1,2,4-triazole (0.881 g, 0.0128 mol) in pyridine (3.00 mL) was charged with POCl3 (0.396 mL, 0.00425 mol) and stirred at rt for 15 min. To this mixture was drop wise added methyl trans-4-(5-iodo-4-oxo-3,4-dihydroimidazo[5,1-f][1,2,4]triazin-7-yl)cyclohexanecarboxylate (0.570 g, 0.01042 mol) in pyridine (6.00 mL) and stirred at rt for an additional 2.45 h. The reaction was quenched with excess 2 M of NH3 in i-PrOH (40.00 mL) at 0° C. and allowed to stir at rt for an additional 3 h. The reaction was concentrated in vacuo and partitioned between EtOAc and sat. NaHCO3 and separated. The aqueous was washed with EtOAc (3×) and the combined organic fractions were washed with brine (1×). The aqueous was re-extracted with CHCl3 (3×) and the organic was added to the EtOAc fractions. The combined organic fractions were dried over Na2SO4, filtered and concentrated in vacuo. The crude brown/red solid was purified by chromatography over silica gel [eluting with 5% MeOH in CHCl3]resulting in 438 mg, (76% yield) of the title compound as a light yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.39-1.54 (m, 2H), 1.55-1.71 (m, 2H), 1.92-2.07 (m, 411), 2.35-2.46 (m, 1H), 3.06-3.19 (m, 1H), 3.61 (s, 3H), 6.77 (br. s., 1H) 7.86 (s, 1H) and 8.44 (br. s., 1H); MS (ES+): m/z 401.85 [MH+].

reactant | 1H-1,2,4-triazole | 0.0128 mol, 0.881 g | N1N=CN=C1 | C2H3N3
reactant | POCl3 | 0.00425 mol, 0.396 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | methyl trans-4-(5-iodo-4-oxo-3,4-dihydroimidazo[5,1-f][1,2,4]triazin-7-yl)cyclohexanecarboxylate | 0.01042 mol, 0.570 g | IC=1N=C(N2N=CNC(C21)=O)[C@@H]2CC[C@H](CC2)C(=O)OC | C13H15IN4O3
solvent | pyridine | 3.00 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 6.00 mL | N1=CC=CC=C1 | C5H5N
product | Methyl trans-4-(4-amino-5-iodoimidazo[5,1-f][1,2,4]triazin-7-yl)cyclohexanecarboxylate | 76% yield | NC1=NC=NN2C1=C(N=C2[C@@H]2CC[C@H](CC2)C(=O)OC)I | C13H16IN5O2
